US04559354
In a pressure tube a mixture of 17.2 g of 4-hydroxybenzamidine dihydrate, 60 ml of ethanol and 14.6 ml of trifluoroacetylacetone is heated for 18 hours at a bath temperature of 110°. The mixture is then stirred with 200 ml of ether, a small amount of precipitate is filtered off with suction and the filtrate is extracted with two portions of 2N sodium hydroxide solution. The alkaline solution is treated with carbon, filtered and then 400 ml of ethyl acetate and 160 ml of 2N hydrochloric acid are added to pH 1. The organic phase is separated off, washed with water, dried over sodium sulphate and concentrated by evaporation. The residue is recrystallised from ether/hexane yielding 2-(4-hydroxyphenyl)-4-methyl-6-(trifluoromethyl)-pyrimidine having a melting point of 131°-132° C.

reactant | 4-hydroxybenzamidine dihydrate | 17.2 g | O.O.OC1=CC=C(C(=N)N)C=C1
reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | trifluoroacetylacetone | 14.6 ml | FC(C(=O)CC(C)=O)(F)F | C5H5F3O2
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-(4-hydroxyphenyl)-4-methyl-6-(trifluoromethyl)-pyrimidine | OC1=CC=C(C=C1)C1=NC(=CC(=N1)C)C(F)(F)F | C12H9F3N2O
